US03941803
In the manner given in Example 33, 2',5-dichloro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone (4.76 g., 10.0 mmol) is dissolved in 60 ml. of ethanol, treated with 1.00 ml. of hydrazine hydrate and heated to 73° C. for 2 hours. After filtration of the reaction mixture, the mother liquids are concentrated and the residue is recrystallized from ethyl acetate/hexane mixtures to give 8-chloro-6-(o-chlorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine of melting point 178°-180° C.

reactant | 2',5-dichloro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone | 10.0 mmol, 4.76 g | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C25H15Cl2N3O3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-6-(o-chlorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=CN3)C3=C(C=CC=C3)Cl)C1 | C17H11Cl2N3
